US04193905
(1-Methyl-3-phenyl-1,3-propanediamine)
160 g (1 mol) of 3-methyl-5-phenyl-2-pyrazoline (according to S. G. Beech et al, J. Chem. Soc. (1952) 4,686-90) are hydrogenated with 20 g of freshly prepared Raney nickel in 400 ml of methanol saturated with NH3 for 6 hours at 80° C./100 atmospheres. The catalyst is separated off, the solvent is removed in a rotary evaporator and the product is distilled under a high vacuum. Fractionation of the distillate in a 25 cm Vigreux column gives 151 g=92% of theory of a colourless oil with a boiling point under 0.03 mm of 90°-91° C. C10H16N2 . (164.24)

reactant | 3-methyl-5-phenyl-2-pyrazoline | 1 mol, 160 g | CC1=NNC(C1)C1=CC=CC=C1 | C10H12N2
reactant | NH3 | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 400 ml | CO | CH4O
product | 1-Methyl-3-phenyl-1,3-propanediamine | CC(CC(N)C1=CC=CC=C1)N | C10H16N2
